US06258824B1
21B. 4-(3-Chloro-phenyl)-6-[(3-chloro-thiophen-2-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one
Following the same procedure as described in example 1F, [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(3-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanol (208 mg, 0.42 mmol) was treated with HCl in aqueous THF to yield the title compound of 21B as a yellow solid (164.7 mg, 81% yield).

reactant | [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(3-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanol | 0.42 mmol, 208 mg | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1N(C=NC1)C)C=1SC=CC1Cl)OC | C25H19Cl2N3O2S
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3-Chloro-phenyl)-6-[(3-chloro-thiophen-2-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one | 164.7 mg, 81% yield | ClC=1C=C(C=CC1)C1=CC(NC2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C=1SC=CC1Cl)=O | C24H17Cl2N3O2S
